US07737274B2
30.0 g (148 mmol) of 5-chloro-2-nitrobenzoic acid was dissolved by stirring in 78 mL (744 mmol) of 50% dimethylamine aqueous solution under cooling in the ice bath. After the solution was put into a pressure-resistant container and sealed, the solution was stirred by heating in the oil bath for 23 hours at 60° C. The reaction solution was sufficiently cooled down and the inner pressure thereof was released. After confirming completion of the reaction by HPLC analysis, the reaction solution was put into another container (using 50 mL of water), 49.6 mL of concentrated hydrochloric acid, and then 200 mL of water were added thereto. Yellow crystals were precipitated by addition of hydrochloric acid. The crystallizing solution was matured at 10° C. overnight, separated by filtration and dried under reduced pressure to obtain 30.95 g of 5-dimethylamino-2-nitrobenzoic acid. (yield 99%)

reactant | 5-chloro-2-nitrobenzoic acid | 148 mmol, 30.0 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | dimethylamine | 744 mmol, 78 mL | CNC | C2H7N
reactant | hydrochloric acid | 49.6 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 5-dimethylamino-2-nitrobenzoic acid | 30.95 g, yield 99% | CN(C=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-])C | C9H10N2O4
